US06248739B1
To a solution of N-(4-chlorobenzyl-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarbothioamide (0.082 g) from Preparation No. 46 in anhydrous dimethylformamide (4 mL) in a flame-dried flask is added dimethylaminopyridine (0.011 g), 2,4,6-collidine (0.035 mL), and methanesulfonyl chloride (0.017 mL). The reaction mixture is stirred at room temperature for 1 h after which time thin layer chromatography indicates starting material is nearly consumed. Morpholine (0.20 mL) is added in one portion. The reaction is stirred for 1.5 h and then poured into water. The aqueous solution is extracted 2× with CH2Cl2 and 2× with 3% MeOH:CH2Cl2. The organics are combined, dried over Na2SO4, filtered, and concentrated. Residual DMF is removed on the vacuum pump. The residue is dissolved in CH2Cl2 and hexanes was added to give a solid (starting material) which is filtered and dried. Upon allowing this filtrate to evaporate overnight, a second solid is obtained. This solid is dissolved in CH2Cl2 and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1 L), 1% MeOH:CH2Cl2 (1 L), 2% MeOH:CH2Cl2 (1 L) 2.5% MeOH:CH2Cl2 (1 L), 3% MeOH:CH2Cl2 (2 L)) affords N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarbothioamide (0.028 g) as a yellow solid.

reactant | 4-chlorobenzyl-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarbothioamide | 0.082 g | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(N)=S)O)CO)C=C1 | C18H15ClN2O2S
reactant | dimethylaminopyridine | 0.011 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,4,6-collidine | 0.035 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 0.017 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarbothioamide | 0.028 g | ClC1=CC=C(CNC(=S)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O2S
